US06313170B1
Under pH 6-10, preferably at pH 7-9, vitamin C was oxidized by oxidant, for example, by hydrogen peroxide solution to get a solution of L-threonic acid,

reactant | vitamin C | OC=1[C@H](OC(C1O)=O)[C@H](CO)O | C6H8O6
reactant | hydrogen peroxide | OO | H2O2
product | L-threonic acid | O=C([C@H](O)[C@@H](O)CO)O | C4H8O5
